### PR TITLE
rt refine: finish replyClear_makes_unlive

### PR DESCRIPTION
**Pull request by corlewis**
Doing this requires introducing a new invariant called `valid_replies'`. Adding this to `invs'` and proving that it is preserved still needs to be done.

### CODE REVIEW

File: proof/refine/ARM/Finalise_R.thy [hunk 1]
```diff
@@ -2945,32 +2955,99 @@ lemma schedContextMaybeUnbindNtfn_obj_at'_ntfnSc:
...
+   frule (2) sym_ref_replyTCB_Receive_or_Reply,
+   fastforce simp: weak_sch_act_wf_def pred_tcb_at'_def obj_at'_def projectKOs)
+
+lemma cancelIPC_makes_unlive:
+  "\<lbrace>\<lambda>s. obj_at' (\<lambda>reply. replyTCB reply = Some tptr) rptr s
+        \<and> weak_sch_act_wf (ksSchedulerAction s) s \<and> valid_replies' s\<rbrace>
+   cancelIPC  tptr
+   \<lbrace>\<lambda>_. ko_wp_at' (Not \<circ> live') rptr\<rbrace>"
+  apply (simp add: cancelIPC_def Let_def getBlockingObject_def sym_refs_asrt_def)
+  apply (rule hoare_seq_ext[OF _ stateAssert_sp])
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Finalise_R.thy:3024]: Maybe worth replacing these two lines with an `apply (intro hoare_seq_ext[OF _ stateAssert_sp]`? You could lump the following sp rule into that `intro` too

**Review by michaelmcinerney — APPROVED** [review]

File: proof/refine/ARM/Invariants_H.thy [hunk 2]
```diff
@@ -997,6 +997,12 @@ definition "vs_valid_duplicates' \<equiv> \<lambda>h.
               x && ~~ mask (vs_ptr_align ko) = y && ~~ mask (vs_ptr_align ko) \<longrightarrow>
               h x = h y"
 
+definition valid_replies' :: "kernel_state \<Rightarrow> bool" where
```
Comment (mktnk3) [inline proof/refine/ARM/Invariants_H.thy:1000]: This name already exists in AInvs, actually. But maybe the one in AInvs could do a better name...hmm.

Comment (mktnk3) [reply proof/refine/ARM/Invariants_H.thy:1000]: And I am wondering how this relates to `valid_replies` in AInvs. I would hope crossing from abstract to concrete to hold. Crossing `sc_with_reply` will give you the `replyPrev/replyNext` assumption, I think, so probably it will work.

**Review by mktnk3 — APPROVED** [review]
Nice to see all these new pieces coming together :)
I hope proving the `valid_replies’` invariant goes smoothly!
